US05834463
(3aR*, 10aS*)-9-(2,4-dichlorobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo [b]cyclopenta[e][1,4]diazepin-10(1H)-one
To a solution of 9-(2,4-dichlorobenzyl)-2,3,9,10a-tetrahydrobenzo [b]cyclopenta[e][1,4]diazepin-10(1H)-one (0.9 g, 2.5 mmol) in dichloromethane (3 mL) was added 2.5N HCl-ethanol solution (1.5 mL), and the mixture was immediately concentrated under reduced pressure. The concentrate was dissolved in methanol (10 mL), to which was added sodium lithium borohydride (250 mg, 6.6 mmol). The mixture was stirred for 20 minutes at room temperature. To the reaction mixture was added water, which was subjected to extraction with ethyl acetate three times. The organic layers were combined, washed with water and a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, which was subjected to filtration. The filtrate was concentrated under reduced pressure, and the concentrate was purified by silica-gel column chromatography (hexane-ethyl acetate 6:1) to give 740 mg (yield 82%) of the titled compound. Amorphous.

reactant | 9-(2,4-dichlorobenzyl)-2,3,9,10a-tetrahydrobenzo [b]cyclopenta[e][1,4]diazepin-10(1H)-one | 2.5 mmol, 0.9 g | ClC1=C(CN2C3=C(N=C4C(C2=O)CCC4)C=CC=C3)C=CC(=C1)Cl | C19H16Cl2N2O
reactant | HCl ethanol | 2.5N, 1.5 mL | Cl.C(C)O
reactant | sodium lithium borohydride | 6.6 mmol, 250 mg | [BH4-].[Li+].[Na+].[BH4-]
reactant | water | O | H2O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 9-(2,4-dichlorobenzyl)-2,3,3a,4,9,10a-hexahydrobenzo [b]cyclopenta[e][1,4]diazepin-10(1H)-one | 740 mg, yield 82% | ClC1=C(CN2C3=C(NC4C(C2=O)CCC4)C=CC=C3)C=CC(=C1)Cl | C19H18Cl2N2O
